* C:\Users\usuario\137\Facultad\circuitos 2\TDCE\Etapa lineal.asc
Vi vi 0 {Vi}
Vref vref 0 {VREF} AC 0
RC1 vi N002 {RC1}
RD1 vo v_f 2.2k
RD2 v_f 0 1k
RL vo 0 {RL}
Q1 N006 vref N009 0 BC547C
Q2 N001 V_amp vo 0 2N3019
Q3 vo N001 vi 0 D45H11
Q4 N005 N007 N009 0 TBJ-NPN-1
RE1 N009 0 {RE}
RC2 vi N003 {RC2}
Q6 N006 N005 N002 0 BC557C
Q5 N005 N005 N003 0 BC557C
Q7 V_amp vref N008 0 BC547C
RB2 N008 0 {RB2}
RB1 vi N004 {RB1}
Q8 V_amp N006 N004 0 BC557C
L1 N007 V_f 100000Meg
C1 N007 P001 100Meg
V1 P001 0 AC 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\usuario\Documents\LTspiceXVII\lib\cmp\standard.bjt
* .step param RC 100 1500 100
* .step param RL 3.33 500 1
* Regulacion de carga
* Transistor de paso
* Realimentador
* Carga
* Amplificador
* Alimentacion
* Generador
* .step param VREF 1.5 1.6 0.01
* Eficiencia
* -100*(V(vo)*I(RL))/(V(vi)*I(Vi))
* Tensión de salida
* .dc Vi 0 8\n.param RL 3.33\n  \n.meas DC VoEspMin FIND V(vo) AT 6.6\n.meas DC VoEspMed FIND V(vo) AT 6.8\n.meas DC VoEspMax FIND V(vo) AT 7\n.meas DC VoError PARAM ((VoEspMin + VoEspMed + VoEspMax)/3 - 5)
* Regulacion de linea
* .dc Vi 0 8\n.param RL=3.33\n \n.meas DC Vol1rl FIND V(vo) AT=6.6\n.meas DC Vol2rl FIND V(vo) AT=7\n.meas DC RegLin PARAM ((Vol2rl - Vol1rl) / 0.4)
* .op\n.step param RL 3.33 500 50\n \n.meas OP Vo1rc FIND V(vo) AT 500\n.meas OP Vo2rc FIND V(vo) AT 3.33\n.meas OP Io1rc FIND I(RL) AT 500\n.meas OP Io2rc FIND I(RL) AT 3.33\n.meas OP RegCar PARAM (-(Vo2rc - Vo1rc) / (Io2rc - Io1rc) )
.param RC1=510
* Parametros generales
* LDO
* .dc Vi 6.6 7\n.param RL=3.33\n \n.meas DC VoEnc FIND V(vo) AT 6.8\n.meas DC LDO PARAM (6.6 - VoEnc)
* Pruebas
* .dc Vi 6.6 7\n.param RL=3.33
.param VREF=1.56
.param Vi=6.8
* .step param RE 1350 1750 50
.param RE=1k
.param RB1=51
* .step param RB1 list 46 56
.param RB2=1.8k
* .step param RB2 list 1.62k 1.98k
* Usar un potenciometro en el diseño final
.param RC2=510
* .step param RC1 list 460 510 560
* .step param RC2 list 460 510 560
.model TBJ-NPN-1 NPN(IS=4.679E-14 NF=1.01 ISE=2.642E-15 NE=1.581 BF={BETA} IKF=0.1371 VAF=52.64 NR=1.019 ISC=2.337E-14 NC=1.164 BR=11.57 IKR=0.1144 VAR=364.5 RB=1 IRB=1.00E-06 RBM=1 RE=0.2598 RC=1 XTB=0 EG=1.11 XTI=3 CJE=1.229E-11 VJE=0.5591 MJE=0.3385 TF=4.689E-10 XTF=160 VTF=2.828 ITF=0.8842 PTF=0 CJC=4.42E-12 VJC=0.1994 MJC=0.2782 XCJC=0.6193 TR=1.00E-32 CJS=0 VJS=0.75 MJS=0.333 FC=0.7936 Vceo=45 Icrating=100m mfg=Philips)
.param BETA 458.7
* .step param BETA list 420 520 800
.ac dec 100 1 10Meg
.param RL=3.33
.backanno
.end
